* Actual SKY130 transistor frontend; ideal R/C passives, schematic only.
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /repo/v2/analog/frontend/results/gm3x/sampling_tt_1.8_27_g1_r1_sw_iso1800.0/frontend_pdk_snapshot.spice
.temp 27
VDD VDD 0 1.8
VCM VCM 0 0.9
.include /repo/v2/analog/frontend/results/gm3x/sampling_tt_1.8_27_g1_r1_sw_iso1800.0/adc_blocks_snapshot.spice

VIP SP 0 PULSE(0.72 1.08 10u 10n 10n 10u 20u)
VIN SN 0 PULSE(1.08 0.72 10u 10n 10n 10u 20u)

RSP SP IP 350
RSN SN IN 350
VSEL0 SEL0 0 0
VSEL1 SEL1 0 0
XPGA IP IN OP ON VDD 0 VCM SEL0 SEL1 sky130_v2_switchable_pga

VACQ ACQ 0 PULSE(0 1.8 10u 1n 1n 2.49u 10u)
BACQB ACQB 0 v=1.8-v(acq)
VRST RST 0 PULSE(0 1.8 8u 1n 1n 1u 10u)
BRSTB RSTB 0 v=1.8-v(rst)
XRIP OP FILTP 0 frontend_r R=1800.0
XRIN ON FILTN 0 frontend_r R=1800.0
XCFP FILTP 0 frontend_c4p
XCFN FILTN 0 frontend_c4p
XTGP FILTP HP ACQ ACQB VDD 0 adc_tgate
XTGN FILTN HN ACQ ACQB VDD 0 adc_tgate
XCP HP VCM adc_mim_bank COUNT=4096
XCN HN VCM adc_mim_bank COUNT=4096
XRSTP VCM HP RST RSTB VDD 0 adc_tgate
XRSTN VCM HN RST RSTB VDD 0 adc_tgate
* Explicit testbench leakage only, avoids mathematically floating held nodes.
RLEAKP HP VCM 1g
RLEAKN HN VCM 1g
.control
set noaskquit
set wr_singlescale
set wr_vecnames

tran 5n 40u
let od=v(op)-v(on)
let hd=v(hp)-v(hn)
let cm=(v(op)+v(on))/2
wrdata sampling.dat od hd cm v(acq) v(sp) v(sn)
quit
.endc
.end
